Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.241298332959
[H:1][C:2]([H:3])=[C:4][O:5][C:6]1([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11],1.7124997409399998
[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])=[C:9][H:10],-2.05259249132
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])(=[C:13]([H:14])[H:15])[H:16].[H:1][C:2]([H:3])([C:4]([H:5])=[C:9]=[C:10]([H:11])[H:12])[H:6],-1.48458232775
[H:1][C:2]=[C:3]([C:4]([H:5])=[O:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.4503498286200005
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-7.25400541101
[H:1][C:2][O:3][C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]1=[C:5]([H:6])[C@:7]1([H:8])[C:9]([H:10])([H:11])[H:12],-0.567878629349
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:4],3.61579495823
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11],4.63939112238
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.43921629176
[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[O:7][H:8]>>[H:6].[O:1]=[C:2]=[C:3]([C:4]#[C:5])[O:7][H:8],4.95334944745
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],0.847760890611
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3],5.68301836612
[H:1][C:2]#[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.92654159114
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5],1.9330269302400005
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6][O:7]1>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7],-2.18206033762
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[H:1][C:2],7.06318572473
[C:9]([H:10])[H:11].[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.02322232783
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8][H:9]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8].[H:9],3.81973249537
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]#[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C@@:7]1([H:8])[C:9][C:10]1[H:11],1.53871593733
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.4759761186899998
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.81406936147
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])[H:5],0.581311500003
[H:1][O:2]/[C:3]=[C:4](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-2.85442593048
[H:1][C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.37833427311
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.79480161278
[H:1][O:2]/[C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3](=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],3.94199739277
[H:7].[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.590596281730001
